US05786356
(S)-[3-(N,N-Dibenzylamino)-2-hydroxypropoxy]-2-amino-3-nitrobenzene
(S)-3-(2-Amino-3-nitrophenoxy)-1,2-epoxypropane (8.0 g, 38.1 mmol) was dissolved in 250 mL of methanol and treated with dibenzylamine (8.05 mL, 42.0 mmol, d=1.026). The mixture was stirred at reflux for 10 hours and then cooled to 0° C. The resulting orange precipitate was filtered and washed with cold methanol, then dried to yield 12.1 g (78%) of a pale orange solid that was pure by NMR and TLC analysis. The material was used without further purification. NMR.

reactant | (S)-3-(2-Amino-3-nitrophenoxy)-1,2-epoxypropane | 38.1 mmol, 8.0 g | NC1=C(OC[C@@H]2CO2)C=CC=C1[N+](=O)[O-] | C9H10N2O4
reactant | dibenzylamine | 42.0 mmol, 8.05 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | methanol | 250 mL | CO | CH4O
product | (S)-[3-(N,N-Dibenzylamino)-2-hydroxypropoxy]-2-amino-3-nitrobenzene | 12.1 g, 78% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C[C@@H](COC1=C(C(=CC=C1)[N+](=O)[O-])N)O | C23H25N3O4
